* source LAB1
V_V1         N02574 0 8Vdc
R_RL         0 N02581  1.5k TC=0,0 
R_RS         N02574 N02581  200 TC=0,0 
X_D2         0 N02581 Zener_parameterized PARAMS: VZT=5 RSF=100m
